US06576752B1
Synthesis of 2′-deoxy-N4-(5-hydroxypentyl )-5′-O-(4,4′-dimethoxytrityl)cytidine (7)
A solution of 5-aminopentanol (10.0 g, 96.9 mmol) in 2-propanol (10 mL) was added to N4-benzoyl-2′-deoxy-5′-O-(4,4′-dimethoxytrityl)cytidine (2.61 g, 4.12 mmol) and stirred until the mixture was clear. 1,5,7-Triazabicyclo[4.4.0]dec-5-ene (TBD, 2.40 g, 17.2 mmol) was added and the reaction mixture was stirred at ambient temperature for 48 hours. The reaction mixture was evaporated to an oil under high vacuum via oil pump, dissolved in CHCl3 (100 mL), extracted with 0.1 molar aqueous NaOH (2×50 mL) and water (4×50 mL). The organic phase was dried with anhydrous Na2SO4, evaporated, and dissolved in CH2Cl2. The organic phase was evaporated to an oil and purified by silica gel column chromatography using 2:4:94 Et3N:MeOH:CH2Cl2 and 2.5:5:92.5 Et3N:MeOH:CH2Cl2; v/v/v as the eluent. The purification was repeated until a reasonably pure product was obtained. The removal of side product 2′-deoxy-5′-O-(4,4′-dimethoxytrityl)-cytidine was responsible for the necessary of additional purification. After purification 0.53 g (18%) of the title compound was isolated.

reactant | 5-aminopentanol | 96.9 mmol, 10.0 g | NCCCCCO | C5H13NO
reactant | N4-benzoyl-2′-deoxy-5′-O-(4,4′-dimethoxytrityl)cytidine | 4.12 mmol, 2.61 g | C(C1=CC=CC=C1)(=O)NC1=NC(N([C@H]2C[C@H](O)[C@@H](COC(C3=CC=C(C=C3)OC)(C3=CC=C(C=C3)OC)C3=CC=CC=C3)O2)C=C1)=O | C37H35N3O7
reactant | 1,5,7-Triazabicyclo[4.4.0]dec-5-ene | 17.2 mmol, 2.40 g | N12CCCN=C2NCCC1 | C7H13N3
solvent | 2-propanol | 10 mL | CC(C)O | C3H8O
product | 2′-deoxy-N4-(5-hydroxypentyl )-5′-O-(4,4′-dimethoxytrityl)cytidine | OCCCCCNC1=NC(N([C@H]2C[C@H](O)[C@@H](COC(C3=CC=C(C=C3)OC)(C3=CC=C(C=C3)OC)C3=CC=CC=C3)O2)C=C1)=O | C35H41N3O7
